US07495001B2
B] (4-Hydroxy-naphthalen-1-yloxy)-acetic acid ethyl ester
2.23 g (6.62 mmol) of (4-benzyloxy-naphthalen-1-yloxy)-acetic acid ethyl ester was dissolved in 20 ml of tetrahydrofuran and hydrogenated over 0.5 g of 10% of palladium on charcoal as catalyst at ambient temperature and atmospheric pressure. Filtering off the catalyst and evaporating the solvent yielded 1.2 g of the title compound as light brown solid.

reactant | (4-benzyloxy-naphthalen-1-yloxy)-acetic acid ethyl ester | 6.62 mmol, 2.23 g | C(C)OC(COC1=CC=C(C2=CC=CC=C12)OCC1=CC=CC=C1)=O | C21H20O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | (4-Hydroxy-naphthalen-1-yloxy)-acetic acid ethyl ester | 1.2 g | C(C)OC(COC1=CC=C(C2=CC=CC=C12)O)=O | C14H14O4
